*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:18:04 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFRHQX8"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFRHQX8 RN CK D Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 1.08169e-15
*|P (RN X 0 1.7000 0.6650)
*|I (Mmn45@1:g Mmn45@1 g X 0 1.7625 0.4950)
*|I (Mmn45@2:g Mmn45@2 g X 0 2.3775 0.4950)
*|I (Mmn45:g Mmn45 g X 0 2.6775 0.4950)
*|I (Mmn35:g Mmn35 g X 0 4.9425 0.3825)
*|I (Mmp35:g Mmp35 g X 0 4.7975 1.1850)
*|S (RN:9 2.7200 1.4100)
*|S (RN:13 4.3900 1.4100)
C1 Mmp35:g VSS 8.17021e-17
C2 Mmn35:g VSS 9.61203e-17
C3 Mmn45:g VSS 4.69958e-17
C4 Mmn45@2:g VSS 2.09183e-17
C5 Mmn45@1:g VSS 4.48559e-17
C6 RN:9 VSS 1.62329e-16
C7 RN:13 VSS 1.68722e-16
C8 RN VSS 4.60047e-16
Rl1 RN RN:9 77.211380 $W=0.039
Rl2 Mmn45@1:g RN 30.769232 $W=0.039
Rl3 RN Mmn45@2:g 33.848213 $W=0.039
Rl4 Mmn45:g RN 35.771992 $W=0.039
Rl5 Mmp35:g RN:13 217.589981 $W=0.039
Rl6 Mmn35:g Mmp35:g 247.642563 $W=0.039
Rk7 RN:9 RN:13 1.138675 $W=0.09
*
*|NET CK 2.22982e-16
*|P (CK X 0 6.5000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 6.3975 0.3225)
*|I (Mmp20:g Mmp20 g X 0 6.2025 1.1975)
*|S (CK:2 6.3975 0.6650)
*|S (CK:4 6.4950 0.6650)
C9 Mmp20:g VSS 4.97808e-17
C10 Mmn20:g VSS 3.14472e-17
C11 CK:2 VSS 3.47131e-17
C12 CK:4 VSS 6.20109e-17
C13 CK VSS 4.50305e-17
Rl8 CK:2 CK:4 54.638885 $W=0.114
Rl9 Mmn20:g CK:2 86.000366 $W=0.039
Rl10 CK:2 Mmp20:g 216.817276 $W=0.039
Rk11 CK:4 CK 0.239441 $W=0.0975
*
*|NET D 2.92398e-16
*|P (D X 0 5.9000 0.6650)
*|I (Mmn25:g Mmn25 g X 0 5.8525 0.3825)
*|I (Mmp25:g Mmp25 g X 0 5.8775 1.1500)
*|S (D:2 5.8900 0.5850)
C14 Mmp25:g VSS 9.16946e-17
C15 Mmn25:g VSS 2.62205e-17
C16 D:2 VSS 1.38731e-16
C17 D VSS 3.57527e-17
Rl12 D:2 Mmn25:g 24.232828 $W=0.039
Rl13 Mmp25:g D:2 143.463593 $W=0.039
Rk14 D D:2 45.038773 $W=0.138
*
*|NET Q 4.97845e-16
*|P (Q X 0 0.1000 0.6650)
C18 Q VSS 4.97845e-16
*
*|NET qbint 1.20388e-15
*|I (Mmn55@1:g Mmn55@1 g X 0 0.2125 0.5125)
*|I (Mmn46@1:d Mmn46@1 d X 0 2.0225 0.4950)
*|I (Mmn46:d Mmn46 d X 0 2.8750 0.4950)
*|I (Mmn50:g Mmn50 g X 0 3.5325 0.3825)
*|I (Mmp45@1:d Mmp45@1 d X 0 1.8100 1.1450)
*|I (Mmp50:g Mmp50 g X 0 3.7275 1.0550)
*|S (qbint:23 3.4900 0.5950)
*|S (qbint:26 2.8850 0.4700)
C19 Mmp50:g VSS 1.04062e-16
C20 Mmp45@1:d VSS 3.13183e-16
C21 Mmn50:g VSS 3.5881e-17
C22 Mmn46:d VSS 8.94109e-17
C23 Mmn46@1:d VSS 1.05614e-16
C24 Mmn55@1:g VSS 4.19556e-16
C25 qbint:23 VSS 1.36174e-16
Rl15 qbint:23 Mmn50:g 26.098015 $W=0.039
Rl16 Mmp50:g qbint:23 158.355972 $W=0.039
Rk17 qbint:26 qbint:23 45.535141 $W=0.09
Rk18 qbint:26 Mmn46:d 75.000000 $W=0.09
Rk19 Mmp45@1:d qbint:26 0.413482 $W=0.09
Rk20 Mmp45@1:d Mmn55@1:g 45.328926 $W=0.09
Rk21 Mmp45@1:d Mmn46@1:d 75.000000 $W=0.08
*
*|NET 16 1.21854e-18
*|I (Mmn45@1:d Mmn45@1 d X 0 1.8375 0.4950)
*|I (Mmn46@1:s Mmn46@1 s X 0 1.8375 0.4950)
C26 Mmn45@1:d VSS 1.21854e-18
Rmw22 Mmn46@1:s Mmn45@1:d 0.001000 $W=1
*
*|NET n30 9.71355e-16
*|I (Mmn46@1:g Mmn46@1 g X 0 1.9125 0.4950)
*|I (Mmn46@2:g Mmn46@2 g X 0 2.1325 0.4950)
*|I (Mmn46:g Mmn46 g X 0 2.7825 0.4950)
*|I (Mmn51:d Mmn51 d X 0 3.9875 0.3825)
*|I (Mmp46@1:g Mmp46@1 g X 0 1.9125 1.1450)
*|I (Mmp51:d Mmp51 d X 0 3.9775 1.0550)
*|S (n30:14 4.0200 0.9600)
C27 Mmp51:d VSS 1.49918e-16
C28 Mmp46@1:g VSS 5.9383e-16
C29 Mmn51:d VSS 9.97588e-17
C30 Mmn46:g VSS 6.70896e-17
C31 Mmn46@2:g VSS 2.53745e-17
C32 Mmn46@1:g VSS 3.53831e-17
Rl23 Mmp46@1:g Mmn46@1:g 55.002762 $W=0.039
Rl24 Mmp46@1:g Mmn46@2:g 66.323120 $W=0.039
Rl25 Mmp46@1:g Mmn46:g 83.000679 $W=0.039
Rk26 n30:14 Mmn51:d 75.429688 $W=0.08
Rk27 n30:14 Mmp46@1:g 0.893529 $W=0.08
Rk28 n30:14 Mmp51:d 62.000000 $W=0.09
*
*|NET 17 4.69791e-18
*|I (Mmn46@2:s Mmn46@2 s X 0 2.2550 0.4950)
*|I (Mmn45@2:d Mmn45@2 d X 0 2.2550 0.4950)
C33 Mmn46@2:s VSS 4.69791e-18
Rmw29 Mmn45@2:d Mmn46@2:s 0.001000 $W=1
*
*|NET 18 9.60058e-19
*|I (Mmn45:d Mmn45 d X 0 2.7300 0.4950)
*|I (Mmn46:s Mmn46 s X 0 2.7300 0.4950)
C34 Mmn45:d VSS 9.60058e-19
Rmw30 Mmn46:s Mmn45:d 0.001000 $W=1
*
*|NET CKb 1.24068e-15
*|I (Mmn21:g Mmn21 g X 0 3.2675 0.5875)
*|I (Mmn51:g Mmn51 g X 0 3.7275 0.3825)
*|I (Mmn26:g Mmn26 g X 0 5.5675 0.3825)
*|I (Mmn20:d Mmn20 d X 0 6.4900 0.3225)
*|I (Mmp21:g Mmp21 g X 0 3.3575 1.0075)
*|I (Mmp40:g Mmp40 g X 0 4.1225 1.0550)
*|I (Mmp37:g Mmp37 g X 0 5.5675 1.1050)
*|I (Mmp20:d Mmp20 d X 0 6.2950 1.1975)
*|S (CKb:2 3.3200 0.7850)
*|S (CKb:5 4.1225 0.7725)
*|S (CKb:6 3.7000 0.6100)
*|S (CKb:7 4.2650 0.8000)
*|S (CKb:10 5.5400 0.8150)
*|S (CKb:12 5.5300 1.3600)
*|S (CKb:14 6.3050 0.8350)
C35 Mmp20:d VSS 2.89478e-17
C36 Mmp37:g VSS 3.57187e-17
C37 Mmp40:g VSS 3.29774e-17
C38 Mmp21:g VSS 4.12355e-17
C39 Mmn20:d VSS 6.80173e-17
C40 Mmn26:g VSS 4.33415e-17
C41 Mmn51:g VSS 3.07063e-17
C42 Mmn21:g VSS 3.52114e-17
C43 CKb:14 VSS 1.13082e-16
C44 CKb:5 VSS 4.58431e-17
C45 CKb:2 VSS 1.02919e-16
C46 CKb:6 VSS 1.27009e-16
C47 CKb:7 VSS 1.93489e-16
C48 CKb:12 VSS 2.11201e-16
C49 CKb:10 VSS 1.3098e-16
Rl31 CKb:5 CKb:7 85.309921 $W=0.039
Rl32 CKb:5 CKb:6 176.878159 $W=0.039
Rl33 CKb:2 Mmn21:g 37.132118 $W=0.039
Rl34 CKb:6 Mmn51:g 30.564289 $W=0.039
Rl35 Mmn26:g CKb:10 114.153313 $W=0.039
Rl36 Mmp21:g CKb:2 28.171326 $W=0.039
Rl37 Mmp40:g CKb:5 41.989189 $W=0.039
Rl38 CKb:10 Mmp37:g 39.153313 $W=0.039
Rl39 Mmp37:g CKb:12 69.232826 $W=0.039
Rk40 CKb:12 CKb:7 1.347219 $W=0.08
Rk41 CKb:6 CKb:2 90.307899 $W=0.1
Rk42 CKb:14 CKb:10 45.527752 $W=0.08
Rk43 Mmn20:d CKb:14 75.498512 $W=0.08
Rk44 CKb:14 Mmp20:d 62.302422 $W=0.09
*
*|NET CKbb 1.34952e-15
*|I (Mmn21:d Mmn21 d X 0 3.1425 0.5875)
*|I (Mmn40:g Mmn40 g X 0 4.2475 0.3825)
*|I (Mmn37:g Mmn37 g X 0 5.2275 0.3825)
*|I (Mmp21:d Mmp21 d X 0 3.2850 1.0075)
*|I (Mmp51:g Mmp51 g X 0 3.8325 1.0550)
*|I (Mmp26:g Mmp26 g X 0 5.7725 1.1500)
*|S (CKbb:2 3.8600 0.7900)
*|S (CKbb:4 4.2100 0.6400)
*|S (CKbb:6 5.1900 0.6550)
*|S (CKbb:8 5.7000 0.6450)
*|S (CKbb:9 5.1900 0.4500)
*|S (CKbb:10 4.2400 0.2650)
*|S (CKbb:12 3.2550 0.9600)
C50 Mmp26:g VSS 9.2463e-17
C51 Mmp51:g VSS 6.83983e-17
C52 Mmp21:d VSS 1.30471e-16
C53 Mmn37:g VSS 3.83547e-17
C54 Mmn40:g VSS 2.65079e-17
C55 Mmn21:d VSS 7.07157e-17
C56 CKbb:10 VSS 1.77523e-16
C57 CKbb:9 VSS 1.6834e-16
C58 CKbb:2 VSS 2.09273e-16
C59 CKbb:4 VSS 1.12006e-16
C60 CKbb:6 VSS 7.99862e-17
C61 CKbb:8 VSS 1.75478e-16
Rl45 Mmn40:g CKbb:4 90.386673 $W=0.039
Rl46 Mmn37:g CKbb:6 96.155907 $W=0.039
Rl47 Mmp51:g CKbb:2 74.537926 $W=0.039
Rl48 Mmp26:g CKbb:8 164.767715 $W=0.0375
Rk49 CKbb:8 CKbb:9 0.775684 $W=0.085
Rk50 CKbb:9 CKbb:6 0.168475 $W=0.08
Rk51 CKbb:10 CKbb:4 0.267442 $W=0.08
Rk52 CKbb:10 CKbb:2 0.667651 $W=0.085
Rk53 CKbb:9 CKbb:10 0.818790 $W=0.08
Rk54 CKbb:2 CKbb:12 0.616463 $W=0.08
Rk55 CKbb:12 Mmn21:d 75.349396 $W=0.08
Rk56 Mmp21:d CKbb:12 62.000000 $W=0.08
*
*|NET n40 0
*|I (Mmn50:d Mmn50 d X 0 3.6300 0.3825)
*|I (Mmn51:s Mmn51 s X 0 3.6300 0.3825)
Rmw57 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 4.81004e-16
*|I (Mmn40:s Mmn40 s X 0 4.3900 0.3825)
*|I (Mmn36:g Mmn36 g X 0 5.0475 0.3825)
*|I (Mmp40:s Mmp40 s X 0 4.3275 1.0550)
*|I (Mmp36:g Mmp36 g X 0 5.1175 1.1850)
*|S (mout:2 5.0100 0.7150)
*|S (mout:4 4.4300 0.6100)
C62 Mmp36:g VSS 4.97512e-17
C63 Mmp40:s VSS 7.30119e-17
C64 Mmn36:g VSS 6.8139e-17
C65 Mmn40:s VSS 4.73962e-17
C66 mout:4 VSS 8.61065e-17
C67 mout:2 VSS 1.56599e-16
Rl58 mout:2 Mmn36:g 74.232826 $W=0.039
Rl59 Mmp36:g mout:2 116.106163 $W=0.039
Rk60 mout:2 mout:4 45.475349 $W=0.08
Rk61 mout:4 Mmn40:s 75.095490 $W=0.125
Rk62 mout:4 Mmp40:s 62.266853 $W=0.08
*
*|NET n20 4.91775e-16
*|I (Mmn30:g Mmn30 g X 0 4.5325 0.3825)
*|I (Mmn37:d Mmn37 d X 0 5.3975 0.3825)
*|I (Mmp30:g Mmp30 g X 0 4.5325 1.0550)
*|I (Mmp37:d Mmp37 d X 0 5.7200 1.1500)
*|S (n20:1 4.6150 0.8000)
*|S (n20:2 4.5325 0.8000)
*|S (n20:6 5.3500 0.9050)
C68 Mmp37:d VSS 6.38275e-17
C69 Mmp30:g VSS 4.69247e-17
C70 Mmn37:d VSS 6.64563e-17
C71 Mmn30:g VSS 4.14395e-17
C72 n20:6 VSS 1.35125e-16
C73 n20:2 VSS 2.46398e-17
C74 n20:1 VSS 1.13362e-16
Rl63 n20:1 n20:2 50.117092 $W=0.094
Rl64 n20:2 Mmn30:g 117.021820 $W=0.039
Rl65 n20:2 Mmp30:g 34.329510 $W=0.039
Rk66 n20:6 n20:1 0.585877 $W=0.08
Rk67 n20:6 Mmn37:d 75.353577 $W=0.09
Rk68 Mmp37:d n20:6 62.385372 $W=0.08
*
*|NET n27 1.62034e-18
*|I (Mmn35:d Mmn35 d X 0 4.9950 0.3825)
*|I (Mmn36:s Mmn36 s X 0 4.9950 0.3825)
C75 Mmn35:d VSS 1.62034e-18
Rmw69 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n25 2.4065e-18
*|I (Mmn36:d Mmn36 d X 0 5.1375 0.3825)
*|I (Mmn37:s Mmn37 s X 0 5.1375 0.3825)
C76 Mmn36:d VSS 2.4065e-18
Rmw70 Mmn37:s Mmn36:d 0.001000 $W=1
*
*|NET n21 2.59276e-18
*|I (Mmn26:s Mmn26 s X 0 5.7100 0.3825)
*|I (Mmn25:d Mmn25 d X 0 5.7100 0.3825)
C77 Mmn26:s VSS 2.59276e-18
Rmw71 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 2.18324e-18
*|I (Mmp50:d Mmp50 d X 0 3.7800 1.0550)
*|I (Mmp51:s Mmp51 s X 0 3.7800 1.0550)
C78 Mmp50:d VSS 2.18324e-18
Rmw72 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET n26 1.69294e-16
*|I (Mmp35:d Mmp35 d X 0 4.9575 1.1850)
*|I (Mmp37:s Mmp37 s X 0 5.4750 1.1050)
C79 Mmp37:s VSS 8.39168e-17
C80 Mmp35:d VSS 8.5377e-17
Rk73 Mmp37:s Mmp35:d 124.266258 $W=0.1
*
*|NET n22 3.74072e-20
*|I (Mmp26:s Mmp26 s X 0 5.8250 1.1500)
*|I (Mmp25:d Mmp25 d X 0 5.8250 1.1500)
C81 Mmp26:s VSS 3.74072e-20
Rmw74 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0273P	AS=0.0568P	PD=0.73U	PS=1U
+ fw=2.6e-07 sa=1.69e-06 sb=1.16e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn46@1	Mmn46@1:d	Mmn46@1:g	Mmn46@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0455P	AS=0.0273P	PD=0.87U	PS=0.73U
+ fw=2.6e-07 sa=1.84e-06 sb=1.01e-06 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn46@2	Mmn46@1:d	Mmn46@2:g	Mmn46@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0455P	AS=0.052P	PD=0.87U	PS=0.92U
+ fw=2.6e-07 sa=2e-06 sb=7.9e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn45@2	Mmn45@2:d	Mmn45@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.052P	AS=0.0663P	PD=0.92U	PS=1.03U
+ fw=2.6e-07 sa=2e-06 sb=5.45e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0663P	PD=0.64U	PS=1.03U
+ fw=2.6e-07 sa=2e-06 sb=2.45e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn46	Mmn46:d	Mmn46:g	Mmn46:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0156P	PD=0.8U	PS=0.64U
+ fw=2.6e-07 sa=2e-06 sb=1.4e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02973P	AS=0.07485P	PD=0.7U	PS=1.6U
+ fw=1.45e-07 sa=2.05e-07 sb=1e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03075P	AS=0.07485P	PD=0.71U	PS=1.6U
+ fw=2.05e-07 sa=1.7e-07 sb=2e-06 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.09737P	AS=0.03075P	PD=1.36U	PS=0.71U
+ fw=2.05e-07 sa=3.65e-07 sb=2e-06 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn40	Mmn51:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.09737P	AS=0.0492P	PD=1.36U	PS=0.89U
+ fw=2.05e-07 sa=8.85e-07 sb=1.745e-06 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn30	Mmn40:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0492P	AS=0.08083P	PD=0.89U	PS=1.24U
+ fw=2.05e-07 sa=1.17e-06 sb=1.46e-06 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.08083P	PD=0.53U	PS=1.24U
+ fw=2.05e-07 sa=1.58e-06 sb=1.05e-06 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02768P	AS=0.0123P	PD=0.68U	PS=0.53U
+ fw=2.05e-07 sa=1.685e-06 sb=9.45e-07 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn37	Mmn37:d	Mmn37:g	Mmn37:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06047P	AS=0.02767P	PD=1U	PS=0.68U
+ fw=2.05e-07 sa=1.865e-06 sb=7.65e-07 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn26	Mmn37:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06047P	AS=0.0492P	PD=1U	PS=0.89U
+ fw=2.05e-07 sa=2e-06 sb=4.25e-07 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0492P	AS=0.0287P	PD=0.89U	PS=0.69U
+ fw=2.05e-07 sa=2e-06 sb=1.4e-07 sca=8.27167 scb=0.00612996 scc=0.000112653
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02972P	PD=0.57U	PS=0.7U
+ fw=1.45e-07 sa=2.05e-07 sb=1.4e-07 sca=6.91521 scb=0.00371851 scc=3.09367e-05
Mmn55@1	Q	Mmn55@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.295U
+ AD=0.05226P	AS=0.04857P	PD=0.94429U	PS=0.92286U	M=7
+ fw=2.95e-07 sa=1.4e-07 sb=1.92881e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.13643P	PD=0.71U	PS=2.11U
+ fw=2.15e-07 sa=1.22326e-07 sb=1.53395e-06 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.13643P	PD=0.74U	PS=2.11U
+ fw=3.1e-07 sa=3.93548e-07 sb=1.28532e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.07595P	AS=0.0186P	PD=1.11U	PS=0.74U
+ fw=3.1e-07 sa=4.98548e-07 sb=1.18032e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.07595P	AS=0.11315P	PD=1.11U	PS=1.35U
+ fw=3.1e-07 sa=7.88548e-07 sb=8.90323e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.11315P	AS=0.0747P	PD=1.35U	PS=1.32U
+ fw=3.1e-07 sa=1.19855e-06 sb=4.80323e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08525P	AS=0.0747P	PD=1.17U	PS=1.32U
+ fw=3.1e-07 sa=8.73548e-07 sb=4.9e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp36	Mmp35:d	Mmp36:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08525P	AS=0.0875P	PD=1.17U	PS=1.54U
+ fw=3.1e-07 sa=1.19355e-06 sb=1.7e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp37	Mmp37:d	Mmp37:g	Mmp37:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0514P	AS=0.0434P	PD=1.03U	PS=0.9U
+ fw=3.1e-07 sa=1.4e-07 sb=5.65161e-07 sca=21.39 scb=0.0188316 scc=0.00214554
Mmp26	Mmp37:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0514P	AS=0.0186P	PD=1.03U	PS=0.74U
+ fw=3.1e-07 sa=3.09435e-07 sb=4.58145e-07 sca=16.2905 scb=0.015087 scc=0.00109315
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.0697P	PD=0.74U	PS=1.18U
+ fw=3.1e-07 sa=4.14435e-07 sb=3.53145e-07 sca=16.6546 scb=0.0152768 scc=0.00109326
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0697P	PD=0.71U	PS=1.18U
+ fw=2.15e-07 sa=7.23721e-07 sb=1.4e-07 sca=15.9567 scb=0.015497 scc=0.000381994
Mmp55@1	Q	Mmn55@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.07056P	AS=0.07435P	PD=1.20714U	PS=1.22857U	M=7
+ fw=4.45e-07 sa=1.4e-07 sb=1.90096e-06 sca=41.6034 scb=0.0375368 scc=0.00435732
Mmp45@1	Mmp45@1:d	RN	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.06695P	AS=0.09878P	PD=1.12333U	PS=1.36U	M=3
+ fw=3.9e-07 sa=1.645e-06 sb=1.15577e-06 sca=19.0259 scb=0.0163587 scc=0.00171562
Mmp46@1	Mmp45@1:d	Mmp46@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.06695P	AS=0.07253P	PD=1.12333U	PS=1.44U	M=3
+ fw=3.9e-07 sa=1.85e-06 sb=9.50769e-07 sca=19.0259 scb=0.0163587 scc=0.00171562
.ENDS
.END
